US04287200
2.1 g Of ethyl 2-methanesulfonyloxy-3-[4-(2-methyl-2-phenylpropyloxy)phenyl]propionate and 0.76 g of thiourea are added to 20 ml of sulfolane, and the mixture is heated at 120° C. with stirring for one hour. After adding 10 ml of 2 N--hydrochloric acid, the mixture is heated at 100° C. for 8 hours. After cooling, water is added to the mixture, and the mixture is subjected to extraction with ether. The extract is washed with water and dried. The ether is distilled off to give 1.3 g of 5-[4-(2-methyl-2-phenylpropyloxy)benzyl]thiazolidine-2,4-dione.

reactant | ethyl 2-methanesulfonyloxy-3-[4-(2-methyl-2-phenylpropyloxy)phenyl]propionate | 2.1 g | CS(=O)(=O)OC(C(=O)OCC)CC1=CC=C(C=C1)OCC(C)(C1=CC=CC=C1)C | C22H28O6S
reactant | thiourea | 0.76 g | NC(=S)N | CH4N2S
reactant | sulfolane | 20 ml | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 5-[4-(2-methyl-2-phenylpropyloxy)benzyl]thiazolidine-2,4-dione | 1.3 g | CC(COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)(C)C1=CC=CC=C1 | C20H21NO3S
